US04703054
(1) To an ice-cold solution of thionyl chloride (5 ml) in dry ethanol (50 ml) a solution of sodium 2,2-dimethyl-5-oxo-1-imidazolidineacetate (4 g) in dry ethanol (50 ml) was added dropwise. The mixture was stirred at 0° C. for 1 hour, then at room temperature overnight. After evaporation under reduced pressure, the residue was taken up with a saturated solution of sodium hydrogen carbonate and extracted with 3×100 ml of dichloromethane. The organic layer was dried and evaporated, to yield ethyl 2,2-dimethyl-5-oxo-1-imidazolidineacetate (2.57 g) as a colorless oil (Rf. 0.49, methanol/acetone 1:1; silica gel plates). Oxalate salt m.p. 109°-113° C. (ethanol/diethyl ether).

reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium 2,2-dimethyl-5-oxo-1-imidazolidineacetate | 4 g | CC1(N(C(CN1)=O)CC(=O)[O-])C.[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2,2-dimethyl-5-oxo-1-imidazolidineacetate | 2.57 g | CC1(N(C(CN1)=O)CC(=O)OCC)C | C9H16N2O3
